US08076354B2
Reaction of a mixture of 2-bromo-5-iodo-pyrazine and copper (I) iodide under inert conditions in an appropriate solvent and base e.g. DMF/Et3N with ethynyl-trimethyl-silane using a palladium catalyst e.g. Pd(PPh3)4 at room temperature gives 2-Bromo-5-trimethylsilanylethynyl-pyrazine. This material can be used without further purification and reacted to form 6-bromo-2-trimethylsilanyl-pyrazolo[1,5-a]pyrazine using O-(mesitylenesulfonyl)hydroxylamine to form the N-amino adduct. This can then be cyclised by reacting with base e.g. K2CO3 to form pyrazolopyrazine core (Scheme 6).

reactant | 2-bromo-5-iodo-pyrazine | BrC1=NC=C(N=C1)I | C4H2BrIN2
reactant | ethynyl-trimethyl-silane | C(#C)[Si](C)(C)C | C5H10Si
catalyst | palladium | [Pd] | Pd
catalyst | copper (I) iodide | [Cu]I
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF Et3N | CN(C)C=O.CCN(CC)CC
product | 2-Bromo-5-trimethylsilanylethynyl-pyrazine | BrC1=NC=C(N=C1)C#C[Si](C)(C)C | C9H11BrN2Si
